US06946283B2
Under an inert atmosphere, the mesylate (21.5 mg, 0.06 mmol) was dissolved in tetrahydrofuran in a Schlenk flask equipped with a cold finger. Excess lithium triethylborohydride (263 μL, 1 M in tetrahydrofuran, 0.26 mmol) was added dropwise to the solution, the reaction was stirred at reflux for 6 hours and monitored by TLC (6:1 hexane:diethyl ether). The reaction was quenched with ice-cold H2O, extracted with hexane (3×), dried with MgSO4, filtered over a silica plug, and concentrated. (Walter, 1988) GC analysis indicated that an 85:15 mixture of levopimaradiene:abietatriene had been obtained in 41.3% yield (6.6 mg). The isomeric mixture was separated by argentic TLC (Li et al., 1995) (SiO2—AgNO3, 3 developments with 85:15 hexane:diethyl ether) giving pure abietatriene (Rf 0.96) (Kutney and Han, 1996) and pure levopimaradiene (Rf 0.92) as identified by de novo characterization based on 1H, COSY-DEC, 13C, DEPT-135, HSQC, and HMBC NMR, and GC/MS analyses.

reactant | mesylate | 0.06 mmol, 21.5 mg | S(C)(=O)(=O)[O-]
reactant | lithium triethylborohydride | 0.26 mmol, 1 M, 263 μL | C(C)[BH-](CC)CC.[Li+]
reactant | hexane | CCCCCC | C6H14
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | abietatriene | 41.3% yield | CC(C)C1=CC2=C(C=C1)[C@]3(CCCC([C@@H]3CC2)(C)C)C | C20H30
